US08377937B2
A solution of HCl/dioxane at 0° C. was added to (R)-tert-butyl 2-(N-(4-chlorobenzyl)-4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxamido)ethylcarbamate (40 mg, 0.075 mmol) in MeOH (1 mL). The reaction mixture was stirred at 25° C. for 1 hour. After removal of the solvent, the crude product was purified by preparative HPLC to afford (R)—N-(2-aminoethyl)-N-(4-chlorobenzyl)-4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxamide (32 mg, 90%). MS (ESI) m/e (M+H+) 429.2. 1H NMR: δ=8.56 (s, 1H), δ=7.23-7.56 (dd, 4H), δ=4.51 (s, 2H), δ=3.97-4.19 (m, 4H), δ=3.70 (m, 1H), δ=3.61 (m, 4H), δ=3.40-3.43 (t, 2H), δ=2.96-3.15 (m, 4H), δ=2.42 (m, 1H), δ=1.89 (m, 1H), δ=1.21-1.22 (d, 3H).

reactant | HCl dioxane | Cl.O1CCOCC1
reactant | (R)-tert-butyl 2-(N-(4-chlorobenzyl)-4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxamido)ethylcarbamate | 0.075 mmol, 40 mg | ClC1=CC=C(CN(C(=O)N2CCN(CC2)C=2C3=C(N=CN2)CC[C@H]3C)CCNC(OC(C)(C)C)=O)C=C1 | C27H37ClN6O3
solvent | MeOH | 1 mL | CO | CH4O
product | (R)—N-(2-aminoethyl)-N-(4-chlorobenzyl)-4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxamide | 32 mg, 90% | NCCN(C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CC[C@H]2C)CC2=CC=C(C=C2)Cl | C22H29ClN6O
